US06451814B1
tert-Butyl methylsulfonyl{3-[(2S)oxiranylmethoxy]phenyl}carbamate
tert-Butyl 3-(benzyloxy)phenyl(methylsulfonyl)carbamate (2.6 g, 6.88 mmol) was dissolved in ethanol (25 mL), 10% palladium on carbon (0.75 g) and cyclohexene (1.5 mL) were added. The solution was heated to reflux for 3 hours. The solution was cooled and filtered through Celite. The solvent was removed in vacuo to yield crude title compound (1.93 g, 6.7 mmol).

reactant | tert-Butyl 3-(benzyloxy)phenyl(methylsulfonyl)carbamate | 6.88 mmol, 2.6 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)N(C(OC(C)(C)C)=O)S(=O)(=O)C | C19H23NO5S
reactant | cyclohexene | 1.5 mL | C1=CCCCC1 | C6H10
reactant | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
product | tert-Butyl methylsulfonyl{3-[(2S)oxiranylmethoxy]phenyl}carbamate | 6.7 mmol, 1.93 g | CS(=O)(=O)N(C(OC(C)(C)C)=O)C1=CC(=CC=C1)OC[C@H]1OC1 | C15H21NO6S
